US05097010
The product was a light tan solid containing a large amount (~232.8 g) of excess, unreacted HQDA. Since HQDA solubility in methanol (CH3OH) is ~6.3 weight percent at 23° C., >4.7 liters of CH3OH should dissolve all unreacted HQDA. Therefore, the product was crushed into a fine powder and washed with 2.8 liters of methanol by slurrying the powder in the methanol for several hours and suction filtering through a 25-50μ frit. It was then treated similarly four more times, using 1.2 liters of methanol per trituration. Hence, the product was washed with a total of 7.6 liters of methanol, or 2.9 liters more than the amount required to dissolve 233 g. The solid product was dried and yielded 192 g (76.8 percent of theoretical) of HQDA/IPA/HQDA. The light tan solid melted at 140°-155° C. on a Fisher Johns hot stage melting point apparatus. The melting point determined by DSC was 156°-161° C. Proton NMR was run in DMSO. The spectrum is in good agreement with the expected bis-paraacetoxy ended aromatic ester.

reactant | HQDA | C1=CC(=CC=C1OC2=CC3=C(C=C2)C(=O)OC3=O)OC4=CC5=C(C=C4)C(=O)OC5=O | C22H10O8
solvent | methanol | CO | CH4O
solvent | CH3OH | >4.7 liters | CO | CH4O
product | HQDA IPA HQDA | 192 g, 76.8 percent | C1=CC(=CC=C1OC2=CC3=C(C=C2)C(=O)OC3=O)OC4=CC5=C(C=C4)C(=O)OC5=O.CC(C)O.C1=CC(=CC=C1OC2=CC3=C(C=C2)C(=O)OC3=O)OC4=CC5=C(C=C4)C(=O)OC5=O | InChI=1S/2C22H10O8.C3H8O/c2*23-19-15-7-5-13(9-17(15)21(25)29-19)27-11-1-2-12(4-3-11)28-14-6-8-16-18(10-14)22(26)30-20(16)24;1-3(2)4/h2*1-10H;3-4H,1-2H3
